US04698352
In 100 ml of methanol was dissolved 25.7 g of [2-methoxy-3-(methoxycarbonyl)allyl]triphenylphosphonium bromide, and to this solution was added dropwise 10.5 g of a 28% by weight solution of sodium methoxide in methanol with stirring at room temperature over 10 minutes. To the mixed solution was then further added 5 g of 1,2,3,6-tetrahydrobenzaldehyde at room temperature and the resulting mixture was subjected to reaction at the same temperature for 2 hours. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and to the residue was added 50 ml of water. The resulting mixture was extracted with 50 ml of chloroform. The extract was dried with anhydrous magnesium sulfate, and the solvent was then removed by distillation under reduced pressure. The residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: benzene/n-haxane (3:1 by volume) mixture) to obtain an oily substance. This oily substance was dissolved in 100 ml of dioxane, and to the solution was then added 100 ml of 0.1N sulfuric acid. The resulting mixture was subjected to reaction at 100° C. for 1.5 hours. The solvent was then removed by distillation under reduced pressure, and to the residue was added 100 ml of chloroform. The resulting mixture was washed with 100 ml of water. The organic layer was separated, and dried with anhydrous magnesium sulfate and then the solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (Wako Silica Gel C-200; eluent: benzene/n-hexane (3:1 by volume) mixture) to obtain 7.5 g of oily methyl 5-(cyclohexen-4-yl)-3-oxo-4-pentenoate.

reactant | [2-methoxy-3-(methoxycarbonyl)allyl]triphenylphosphonium bromide | 25.7 g | [Br-].COC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=CC(=O)OC
reactant | sodium methoxide | C[O-].[Na+]
reactant | 1,2,3,6-tetrahydrobenzaldehyde | 5 g | C(C1CCC=CC1)=O | C7H10O
reactant | sulfuric acid | 0.1N, 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 100 ml | CO | CH4O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | methyl 5-(cyclohexen-4-yl)-3-oxo-4-pentenoate | 7.5 g | C1=CCC(CC1)C=CC(CC(=O)OC)=O | C12H16O3
